US06291452B1
A mixture of (3RS)-3-phthalimido-9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (6.0 g) and hydrazine hydrate (1.05 g) in a mixture of methanol and tetrahydrofuran (1:1, 60 ml) was refluxed with stirring for 3 hours. The reaction mixture was allowed to cool to room temperature, and the resultant precipitates were filtered off. The filtrate and the washings were combined and evaporated in vacuo to give a residue, which was dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate, water and brine successively. The solvent was dried over sodium sulfate and evaporated in vacuo to afford a pale yellow powder, which was washed with diisopropyl ether and collected by filtration to give (3RS)-3-amino-9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (3.37 g, 81.0%).

reactant | (3RS)-3-phthalimido-9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 6.0 g | C1(C=2C(C(N1C1C(NC3=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C3CC)=O)=O)=CC=CC2)=O | C25H18FN3O3
reactant | hydrazine hydrate | 1.05 g | O.NN
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS)-3-amino-9-ethyl-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 3.37 g, 81.0% | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2CC)=O | C17H16FN3O
